US04521430
1.86 g of (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one and 1 ml of triethylamine are dissolved in 15 ml of methylene chloride, and 1.27 g of 5-chloro-2-nitrobenzoyl chloride are added thereto. The mixture is stirred at room temperature for one hour. After the reaction, the mixture is poured into ice-water and then extracted with ethyl acetate. The extract is washed with an aqueous sodium bicarbonate solution, water and an aqueous sodium chloride solution, successively. Then, the extract is evaporated to remove solvent, and the residue is crystallized with ethanol. 2.45 g of (+)-cis-2-(4-methoxyphenyl)-3-(5-chloro-2-nitrobenzoyloxy)-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one are thereby obtained as colorless prisms. Yield: 88.1%.

reactant | (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.86 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=CC=C2 | C20H24N2O3S
reactant | triethylamine | 1 ml | C(C)N(CC)CC | C6H15N
reactant | 5-chloro-2-nitrobenzoyl chloride | 1.27 g | ClC=1C=CC(=C(C(=O)Cl)C1)[N+](=O)[O-] | C7H3Cl2NO3
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | (+)-cis-2-(4-methoxyphenyl)-3-(5-chloro-2-nitrobenzoyloxy)-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 2.45 g, Yield: 88.1% | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O)=O)CCN(C)C)C=CC=C2 | C27H26ClN3O6S
